US04609670
A solution of 4.41 g (0.019 mol) of 1-bromo-2-(4-ethylphenyl)-2-oxoethane and 1.65 g (0.02 mol) of 1-methylimidazole in 40 ml of diethyl ether was stirred at room temperature for approximately 18 hours. The reaction solvent was decanted, and the residue was washed with diethyl ether and dissolved in a small amount of acetonitrile. The resulting solution was diluted with a small amount of ethyl acetate, whereupon a brown precipitate formed. The solid was collected and recrystallized from acetonitrile/ethyl acetate to provide 2.26 g of 1-methyl-3-[2-(4-ethylphenyl)-2-oxoethyl]-1H-imidazolium bromide as fine yellow brown needles. (38% yield) mp=177°-179° C.

reactant | 1-bromo-2-(4-ethylphenyl)-2-oxoethane | 0.019 mol, 4.41 g | BrCC(=O)C1=CC=C(C=C1)CC | C10H11BrO
reactant | 1-methylimidazole | 0.02 mol, 1.65 g | CN1C=NC=C1 | C4H6N2
solvent | diethyl ether | 40 ml | C(C)OCC | C4H10O
product | 1-methyl-3-[2-(4-ethylphenyl)-2-oxoethyl]-1H-imidazolium bromide | 2.26 g, 38% yield | [Br-].C[NH+]1CN(C=C1)CC(=O)C1=CC=C(C=C1)CC | InChI=1S/C14H18N2O.BrH/c1-3-12-4-6-13(7-5-12)14(17)10-16-9-8-15(2)11-16;/h4-9H,3,10-11H2,1-2H3;1H
